US07312359B2
(6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid (0.30 grams, 0.80 mmole) and carbonyl diimidazole (0.13 gms, 0.90 mmole) in 30 mL DMF was stirred for three hours at room temperature. Guanidine sulfate (90 mg) was added, followed by 0.1 ml diisopropylethylamine, and the reaction mixture was stirred overnight. The reaction mixture was diluted with water, and the resulting white crystals were collected by filtration, washed with water, and dried under vacuum to afford 190 mg of N-[2-(6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetyl]-guanidine, M+H=372.

reactant | (6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid | 0.80 mmole, 0.30 grams | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CC(=O)O | C18H18O4S
reactant | carbonyl diimidazole | 0.90 mmole, 0.13 gms | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Guanidine sulfate | 90 mg | S(=O)(=O)(O)O.NC(=N)N
reactant | diisopropylethylamine | 0.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[2-(6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetyl]-guanidine | 190 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CC(=O)NC(=N)N | C19H21N3O3S
